US09382243B2
(3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxetan-3-yl)methanol
A 20 mL microwave vial was charged with (3-(4-bromophenyl)oxetan-3-yl)methanol (167 mg, 0.687 mmol), bis(pinacolato)diboron (349 mg, 1.374 mmol), and potassium acetate (202 mg, 2.061 mmol). The solids were dissolved in DMSO (2748 μl) and sparged with N2 for 15 min. Then [1,1′-Bis(Diphenyl-phosphino)Ferrocene]Dichloropalladium (II) (101 mg, 0.137 mmol) was added and the reaction was stirred overnight at 80° C. The resulting mixture was diluted with EtOAc and 1:1 water:brine. The aqueous phase was removed and extracted (×1) with EtOAc. The combined extracts were washed with brine (×2), dried over Na2SO4, filtered, and concentrated. The resulting residue was purified by column chromatography on a Biotage™ 25 g column by eluting with 10% to 70% EtOAc:Hexane. The resulting solid was triturated with MeOH to yield the desired product. 1H NMR δ (ppm) (CD3OD): 7.74 (d, 2H), 7.12 (d, 2H), 4.91 (d, 2H), 4.84 (d, 2H), 3.86 (s, 2H), 1.36 (s, 12H).

reactant | (3-(4-bromophenyl)oxetan-3-yl)methanol | 0.687 mmol, 167 mg | BrC1=CC=C(C=C1)C1(COC1)CO | C10H11BrO2
reactant | bis(pinacolato)diboron | 1.374 mmol, 349 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.061 mmol, 202 mg | C(C)(=O)[O-].[K+]
solvent | DMSO | 2748 μl | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | (3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxetan-3-yl)methanol | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1(COC1)CO)C | C16H23BO4
